US07514566B2
N-(5-Bromo-4-((dimethylamino)methyl)thiazol-2-yl)acetamide
To a solution of N-(4-((dimethylamino)methyl)thiazol-2-yl)acetamide (1.1 g, 5.5 mmol) in 10 mL AcOH was added Br2 (0.28 mL, 5.5 mmol) dropwise. The resulting mixture discolored instantly, and a precipitate appeared. The precipitate was filtered and washed with AcOH. The collected precipitate was neutralized with saturated sodium bicarbonate and extracted twice with 100 mL EtOAc. The organic layer was combined, washed once with brine, and dried over sodium sulfate. After removing the solvent, the product was obtained as a white solid (1.0 g, yield=65%). LCMS (API-ES) m/z (%) 278.0 (100%, M++H). 1H NMR (400 MHz, CDCl3) δ ppm 2.24 (s, 3H) 2.28 (s, 6H) 3.44 (s, 2H).

reactant | N-(4-((dimethylamino)methyl)thiazol-2-yl)acetamide | 5.5 mmol, 1.1 g | CN(C)CC=1N=C(SC1)NC(C)=O | C8H13N3OS
reactant | Br2 | 5.5 mmol, 0.28 mL | BrBr | Br2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | N-(5-Bromo-4-((dimethylamino)methyl)thiazol-2-yl)acetamide | 1.0 g, yield=65% | BrC1=C(N=C(S1)NC(C)=O)CN(C)C | C8H12BrN3OS
